US09238647B2
Step. B: Methyl 4-amino-3-bromo-5-nitrobenzoate
To a solution of 4-amino-3-bromo-5-nitrobenzoic acid (3.65 g, 14.0 mmol) in dichloromethane (35 mL) and methanol (35 mL) at 0° C. was slowly added trimethylsilyl-diazomethane (8.74 mL, 17.5 mmol). The mixture was allowed to warm to ambient temperature and concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) gave the title compound (1.54 g). LC-MS [M]=275.1.

reactant | 4-amino-3-bromo-5-nitrobenzoic acid | 14.0 mmol, 3.65 g | NC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])Br | C7H5BrN2O4
reactant | trimethylsilyl-diazomethane | 17.5 mmol, 8.74 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | methanol | 35 mL | CO | CH4O
product | Methyl 4-amino-3-bromo-5-nitrobenzoate | 1.54 g | NC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])Br | C8H7BrN2O4
